US06924278B2
To a mixed solution of 1-(benzyloxycarbonyl)-3-(2,3-dimethoxybenzyl)piperazine (0.65 g) and triethylamine (0.293 ml) in dichloromethane (17 ml) was added dropwise a solution of 3,5-bis(trifluoromethyl)benzoyl chloride (0.534 g) in dichloromethane (2.5 ml) under ice-cooling. After being stirred at the same temperature for 2 hours, the reaction mixture was poured into a mixed solvent of water (40 ml) and dichloromethane (25 ml) and the whole was adjusted to pH 9 with aqueous sodium hydrogen carbonate solution. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (10 g) using a mixed solvent of n-hexane and ethyl acetate (2:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give 1-[3,5-bis(trifluoromethyl)benzoyl]-4-(benzyloxycarbonyl)-2-(2,3-dimethoxybenzyl)piperazine (0.84 g).

reactant | 1-(benzyloxycarbonyl)-3-(2,3-dimethoxybenzyl)piperazine | 0.65 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)CC1=C(C(=CC=C1)OC)OC | C21H26N2O4
reactant | triethylamine | 0.293 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-bis(trifluoromethyl)benzoyl chloride | 0.534 g | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 17 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | water | 40 ml | O | H2O
product | 1-[3,5-bis(trifluoromethyl)benzoyl]-4-(benzyloxycarbonyl)-2-(2,3-dimethoxybenzyl)piperazine | 0.84 g | FC(C=1C=C(C(=O)N2C(CN(CC2)C(=O)OCC2=CC=CC=C2)CC2=C(C(=CC=C2)OC)OC)C=C(C1)C(F)(F)F)(F)F | C30H28F6N2O5
